US08664220B2
Step 2: (6-Benzyl-pyridin-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol
Prepared according to the procedure described in Example 58, Step, using 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde and 2-benzyl-6-bromo-pyridine.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazole-4-carbaldehyde | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C=O | C11H8BrNO2
reactant | 2-benzyl-6-bromo-pyridine | C(C1=CC=CC=C1)C1=NC(=CC=C1)Br | C12H10BrN
product | (6-Benzyl-pyridin-2-yl)-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-methanol | C(C1=CC=CC=C1)C1=CC=CC(=N1)C(O)C=1C(=NOC1C1=CC=C(C=C1)Br)C | C23H19BrN2O2
